US05198571
1-(benzyloxy)-3,4-dihydroxy benzene
1.37 g of 1,2,4-trihydroxy benzene and 30 ml of anhydrous dimethylformamide were mixed together under an inert gas atmosphere and then 0.984 g of sodium hydride in suspension at 53% in oil was added at 15°-20° C. The mixture was stirred for one hour and 1.906 ml of triethyl borate were added. The mixture was stirred for one hour, and 1.29 ml of benzyl bromide in solution in 20 ml of dimethylformamide were added over 2 hours. The mixture was stirred for 16 hours at ambient temperature and then was poured into a water-ice-N hydrochloric acid mixture. Extraction took place with ethyl acetate followed by evaporation to dryness. The residue was washed with petroleum ether, and chromatographed on silica eluting with a cyclohexane-ethyl acetate (6-4) mixture to obtain 1.36 g of the crystallized expected product (Yield: 58%).

reactant | 1,2,4-trihydroxy benzene | 1.37 g | OC1=C(C=C(C=C1)O)O | C6H6O3
reactant | sodium hydride | 0.984 g | [H-].[Na+]
reactant | triethyl borate | 1.906 ml | B(OCC)(OCC)OCC | C6H15BO3
reactant | benzyl bromide | 1.29 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(benzyloxy)-3,4-dihydroxy benzene | Yield: 58% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)O | C13H12O3
